US08034945B2
(c). 4-[3-Bromo-4-(3-methoxy-benzyloxy)-5-nitro-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile
A mixture of 3-bromo-4-(3-methoxy-benzyloxy)-5-nitro-benzaldehyde (50 mg), 3-aminocrotonitrile (13 mg) and 5-propylcyclohexane-1,3-dione (25 mg) in 10 ml of ethanol was stirred at 80° C. for 17 h. The mixture was concentrated in vacuo. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 8/2→1/1 (v/v) as eluent.

reactant | 3-bromo-4-(3-methoxy-benzyloxy)-5-nitro-benzaldehyde | 50 mg | BrC=1C=C(C=O)C=C(C1OCC1=CC(=CC=C1)OC)[N+](=O)[O-] | C15H12BrNO5
reactant | 3-aminocrotonitrile | 13 mg | C/C(=C\C#N)/N | C4H6N2
reactant | 5-propylcyclohexane-1,3-dione | 25 mg | C(CC)C1CC(CC(C1)=O)=O | C9H14O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[3-Bromo-4-(3-methoxy-benzyloxy)-5-nitro-phenyl]-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinoline-3-carbonitrile | BrC=1C=C(C=C(C1OCC1=CC(=CC=C1)OC)[N+](=O)[O-])C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N | C28H28BrN3O5
